US05041460
4-[5-[2-(N',N'-Dimethylureido)propyl]-1 -methylindol-3-ylmethyl]-3-methoxy-N-(2-chlorophenylsulfonyl)benzamide.
Using a similar procedure to that described in Example 2, part c, except starting from 4-[5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]- 3-methoxybenzoic acid, and using 2-chlorophenylsulfonamide instead of 2-methylphenylsulfonamide, the title compound was obtained (88%) as a white solid; mp 131°-136° C.

reactant | 4-[5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]- 3-methoxybenzoic acid | CN(C(NC(CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)O)C=C1)OC)C)=O)C | C24H29N3O4
reactant | 2-chlorophenylsulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
product | 4-[5-[2-(N',N'-Dimethylureido)propyl]-1 -methylindol-3-ylmethyl]-3-methoxy-N-(2-chlorophenylsulfonyl)benzamide | CN(C(NC(CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)Cl)C=C1)OC)C)=O)C | C30H33ClN4O5S
